US04898871
The procedure is as in Example 7, but starting with 4-(2,6-dimethyl-1-piperidyl)butanol (8 g) in anhydrous tetrahydrofuran (220 cc), an oily suspension (50% by weight; 1.9 g) of sodium hydride and 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone (8.6 g). The residue obtained is taken up with ethyl acetate (20 cc); the insoluble product is removed by filtration and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue obtained is taken up with water (50 cc) and 4N aqueous hydrochloric acid solution (20 cc); the remaining insoluble product is removed by filtration. The filtrate is neutralized with 4 N aqueous sodium hydroxide solution and then extracted with methylene chloride (3×100 cc); the organic extracts are combined and washed with water, dried and concentrated to dryness under reduced pressure (3 kPa) at 40° C. The residue obtained is recrystallized successively in ethyl acetate and 2-propanol, and 2-(7-chloro-1,8-naphthyridin-2-yl)-3-[4-(2,6-dimethylpiperidino)butoxy]-1isoindolinone hydrochloride (1.6 g) is thereby obtained.

reactant | 4-(2,6-dimethyl-1-piperidyl)butanol | 8 g | CC1N(C(CCC1)C)CCCCO | C11H23NO
reactant | sodium hydride | 1.9 g | [H-].[Na+]
reactant | 3-chloro-2-(7-chloro-1,8-naphthyridin-2-yl)-1-isoindolinone | 8.6 g | ClC1N(C(C2=CC=CC=C12)=O)C1=NC2=NC(=CC=C2C=C1)Cl | C16H9Cl2N3O
reactant | hydrochloric acid | 4N, 20 cc | Cl | ClH
solvent | tetrahydrofuran | 220 cc | O1CCCC1 | C4H8O
solvent | water | 50 cc | O | H2O
solvent | ethyl acetate | 20 cc | C(C)(=O)OCC | C4H8O2
product | 2-(7-chloro-1,8-naphthyridin-2-yl)-3-[4-(2,6-dimethylpiperidino)butoxy]-1isoindolinone hydrochloride | 1.6 g | Cl.ClC1=CC=C2C=CC(=NC2=N1)N1C(C2=CC=CC=C2C1OCCCCN1C(CCCC1C)C)=O | InChI=1S/C27H31ClN4O2.ClH/c1-18-8-7-9-19(2)31(18)16-5-6-17-34-27-22-11-4-3-10-21(22)26(33)32(27)24-15-13-20-12-14-23(28)29-25(20)30-24;/h3-4,10-15,18-19,27H,5-9,16-17H2,1-2H3;1H
